US07776869B2
2-Methyl-3-nitrobenzylchloride (1.0 g, 5.4 mmol) was dissolved in 30 ml of THF, and to this was added 1-methylpiperazine (0.65 g, 6.5 mmol) and sodium bicarbonate (2.26 g, 26.9 mmol). The reaction mixture was stirred at 65° C. for 16 hours. The mixture was partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc, and the combined organic layers were washed with saturated NH4Cl, H2O, brine and dried over MgSO4. Solvent evaporation afforded 1-(2-methyl-3-nitrobenzyl)-4-methylpiperazine.

reactant | 2-Methyl-3-nitrobenzylchloride | 5.4 mmol, 1.0 g | CC1=C(CCl)C=CC=C1[N+](=O)[O-] | C8H8ClNO2
reactant | 1-methylpiperazine | 6.5 mmol, 0.65 g | CN1CCNCC1 | C5H12N2
reactant | sodium bicarbonate | 26.9 mmol, 2.26 g | C([O-])(O)=O.[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(2-methyl-3-nitrobenzyl)-4-methylpiperazine | CC1=C(CN2CCN(CC2)C)C=CC=C1[N+](=O)[O-] | C13H19N3O2
